US08097759B2
5-Bromo-2-hydroxy-N-[2-(1-pyrrolidinyl)-5-(trifluoromethyl)-phenyl]benzamide (Compound No. 126)
Using 5-bromosalicylic acid and 2-(1-pyrrolidinyl)-5-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-(1-pyrrolidinyl)-5-(trifluoromethyl)aniline | N1(CCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C11H13F3N2
product | 5-Bromo-2-hydroxy-N-[2-(1-pyrrolidinyl)-5-(trifluoromethyl)-phenyl]benzamide | Yield: 44.5% | BrC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2CCCC2)C1)O | C18H16BrF3N2O2
